US04298739
1.6 Grams of 6-hydroxycarbostyril, 0.7 g of sodium ethylate, 1.6 g of sodium iodide and 2.4 g of N-methyl-N-(4-chlorobutyryl)aniline are added to 30 ml of ethanol and refluxed under agitation for 6 hours. After the reaction, the reaction solution is poured into 200 ml of saturated NaCl solution and the precipitated crystals are filtered out and washed with water. The obtained crude crystals are recrystallized from chloroform-petroleum ether to obtain 1.3 g of 6-[3-(N-methylanilinocarbonyl)propoxy]carbostyril in the form of colorless needle-like crystals with melting point of 187°-189° C.

reactant | 6-hydroxycarbostyril | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | sodium ethylate | 0.7 g | CC[O-].[Na+]
reactant | sodium iodide | 1.6 g | [I-].[Na+]
reactant | N-methyl-N-(4-chlorobutyryl)aniline | 2.4 g | CN(C1=CC=CC=C1)C(CCCCl)=O | C11H14ClNO
reactant | NaCl | 200 ml | [Na+].[Cl-]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-[3-(N-methylanilinocarbonyl)propoxy]carbostyril | 1.3 g | CN(C1=CC=CC=C1)C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O | C20H20N2O3
